US08372981B2
N1-[5-({7-[3-(Dimethylamino)propoxy]-6-methoxy-4-quinolyl}sulfanyl)-2-thienyl]-N′-(4-fluorophenyl)urea
5-({7-[3-(Diethylamino)propoxy]-6-methoxy-4-quinolyl}sulfanyl)-2-thiophenylamine (190 mg), parafluorophenyl isocyanate (69 mg) and tetrahydrofuran (30 ml) were stirred together at room temperature for 30 minutes. The organic solvent was distilled off under reduced pressure, and the residue was purified by column chromatography (ethyl acetate, followed by ethyl acetate:methanol=10:1) using NH type silica gel. The solvent was distilled off under reduced pressure, and ethyl acetate was added to the residue for solidification to obtain 16 mg of a yellowish-brown solid.

reactant | 5-({7-[3-(Diethylamino)propoxy]-6-methoxy-4-quinolyl}sulfanyl)-2-thiophenylamine | 190 mg | C(C)N(CCCOC1=C(C=C2C(=CC=NC2=C1)SC1=CC=C(S1)N)OC)CC | C21H27N3O2S2
reactant | parafluorophenyl isocyanate | 69 mg | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N1-[5-({7-[3-(Dimethylamino)propoxy]-6-methoxy-4-quinolyl}sulfanyl)-2-thienyl]-N′-(4-fluorophenyl)urea | 16 mg | CN(CCCOC1=C(C=C2C(=CC=NC2=C1)SC1=CC=C(S1)NC(=O)NC1=CC=C(C=C1)F)OC)C | C26H27FN4O3S2
